US06995184B2
2-Methyl-7-ethyl- 1H-indole.
A solution of 36.5 g of 2-ethylnitrobenzene in 250 ml of THF is added dropwise at −20° C. to 1.6 l of 0.5M isopropenylmagnesium bromide in THF. The reaction medium is maintained at −20° C. with stirring for 2 hours and then the medium is poured onto 800 ml of saturated NaCl solution. The mixture is allowed to separate by settling and then extraction is carried out with ether. The ether extract is dried and evaporated and then the residue is chromatographed on silica while eluting with an AcOEt/cyclohexane (1/9, v/v) mixture. 23.75 g of the expected compound are obtained.

reactant | 2-ethylnitrobenzene | 36.5 g | C(C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H9NO2
reactant | isopropenylmagnesium bromide | 0.5M | C(=C)(C)[Mg]Br
reactant | NaCl | 800 ml | [Na+].[Cl-]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-Methyl-7-ethyl- 1H-indole | 23.75 g | CC=1NC2=C(C=CC=C2C1)CC | C11H13N
